US04783529
N-benzyl-5,10,15,20-tetraphenylporphyrin
This compound was synthesized using tetraphenylporphyrin as described for N-benzylprotoporphyrin IX dimethyl ester, but alumina was used for the column chromatography. The visible-uv absorption spectrum was very similar to that of N-methyltetraphenylporphyrin and, as expected, N-p-nitrobenzyltetraphenylporphyrin 434 nm, (3.9×105M-1 cm-1), 533 nm, (1.3×104M-1 cm-1) 573 nm, (2.2×104M-1 cm-1) 615 nm, (7.1×103M-1 cm-1), 675 nm, (6.6×103M-1 cm-1). The 1H nmr spectrum in CDCl3 showed the typical upfield shift of the N-methyl protons (at 3.38 ppm upfield from TMS) with phenyl peaks at 4.6 ppm (o), 6.5 ppm(m) and 6.7 ppm(p) and b-pyrrolic hydrogen resonances at 7.6 ppm (s, 2H), 8.5 ppm (d, 2H), 8.6 ppm(d, 2H) and 8.9 ppm (s, 2H). Anal. for C51H36,N4.1/4CH2Cl2Calc. 84.78% C, 5.07% H, 7.71% N, 2.44% Cl; Found. 84.86% C, 5.29% H, 7.65% N, 2.15% Cl.

reactant | tetraphenylporphyrin | C=1C=CC(=CC1)C=2C3=CC=C(N3)C(=C4NC(=C(C5=NC(=C(C=6C=CC2N6)C=7C=CC=CC7)C=C5)C=8C=CC=CC8)C=C4)C=9C=CC=CC9 | C44H30N4
reactant | N-methyltetraphenylporphyrin | CN1C2=C(C(=C1C=C1C=CC(C=C3C=CC(=CC=4C=C(C(=C2C2=CC=CC=C2)N4)C4=CC=CC=C4)N3)=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C45H32N4
reactant | N-p-nitrobenzyltetraphenylporphyrin | [N+](=O)([O-])C1=CC=C(CN2C3=C(C(=C2C=C2C=CC(C=C4C=CC(=CC=5C=C(C(=C3C3=CC=CC=C3)N5)C5=CC=CC=C5)N4)=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C51H35N5O2
reactant | hydrogen | [H][H] | H2
product | N-benzyl-5,10,15,20-tetraphenylporphyrin | C(C1=CC=CC=C1)N1C2=CC=C1C(=C1C=CC(C(=C3C=CC(=C(C=4C=CC(=C2C2=CC=CC=C2)N4)C4=CC=CC=C4)N3)C3=CC=CC=C3)=N1)C1=CC=CC=C1 | C51H36N4
